US04683296
2-Trimethylsilylethyl α-diazoacetoacetate
To a solution of trimethylsilylethyl acetoacetate (10.6 g, 50.0 mmol) and triethylamine (7.10 mL, 51.5 mmol) in acetonitrile (85 mL) was added in an ice-bath p-toluenesulfonyl azide (10.0 g, 50.7 mmol) and the reaction mixture stirred at room temperature for 20 h. After evaporation of the solvent in vacuo, the residue was extracted with Et2O (90 mL) and this extract was washed with a solution of KOH (3.0 g) in H2O (83 mL) and again a solution of KOH (0.9 g) in H2O (30 mL), then brine, and dried (Na2SO4). Evaporation of the solvent in vacuo gave 11.6 g of a crude oil which was purified by column chromatography (SiO2, 150 g) eluting with 20% EtOAc/Hexanes, to obtain 9.65 g (42.3 mmol, yield 84.5%) of the title compound as yellowish oil: Rf 0.44 (20% EtOAc/Hex); ir (neat)νmax : 2130 (C=N2), 1715 (ester), and 1660 (ketone) cm-1 ; uv (CH2Cl2)λmax : 257 nm (ε7200); 1Hmr (CDCl3)δ: 0.07 (9H, s, SiMe3), 1.03 (2H, `t` J=8 Hz, CH2Si), 2.47 (3H, s, COCH3), and 4.30 (2H, `t` J=8 Hz, CO2CH2 ppm.

reactant | trimethylsilylethyl acetoacetate | 50.0 mmol, 10.6 g | C(CC(=O)C)(=O)OCC[Si](C)(C)C | C9H18O3Si
reactant | triethylamine | 51.5 mmol, 7.10 mL | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonyl azide | 50.7 mmol, 10.0 g | C1(=CC=C(C=C1)S(=O)(=O)N=[N+]=[N-])C | C7H7N3O2S
solvent | acetonitrile | 85 mL | C(C)#N | C2H3N
product | 2-Trimethylsilylethyl α-diazoacetoacetate | 42.3 mmol, 9.65 g, yield 84.5% | [N+](=[N-])=C(C(=O)OCC[Si](C)(C)C)C(=O)C | C9H16N2O3Si
